US04826866
3-Dimethylamino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride[1:1]
A stirred slurry of 2.5 g (0.013 mole) of 4,4-dimethyl-3-thiosemicarbazide in 50 mL of absolute ethanol was treated with 2.1 g (0.013 mole) of ethyl 2-chloroacetoacetate added at a rapid rate under nitrogen atmosphere. The reaction mixture turned yellow immediately, cleared, became cloudy and finally became a clear orange solution within 5 minutes. The reaction mixture was stirred at ambient temperature for ~72 hr, heated to reflux, filtered hot, and concentrated in vacuo to give a yellow oil which solidified. Trituration with benzene gave 3 g of tan solid. After 3 recrystallizations from benzene, 1.8 g of fine pale beige crystalline product was obtained, mp 135°-139° C. After drying at 98° C. under reduced pressure for 3 hr, mp 137°-139° C.

reactant | 4,4-dimethyl-3-thiosemicarbazide | 0.013 mole, 2.5 g | CN(C(NN)=S)C | C3H9N3S
reactant | ethyl 2-chloroacetoacetate | 0.013 mole, 2.1 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-Dimethylamino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 3 g | Cl.CN(C1=NNC(=C1C(=O)OCC)C)C | InChI=1S/C9H15N3O2.ClH/c1-5-14-9(13)7-6(2)10-11-8(7)12(3)4;/h5H2,1-4H3,(H,10,11);1H
